US09315471B2
To a three-neck 250 mL round bottom flask, equipped with a mechanical stirrer, a nitrogen inlet, and a thermocouple was charged tert-butyl 4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate (9.8 g, 29.3 mmol), 2-propanol (41.6 mL) and 2.75 M HCl in 2-propanol (32 mL, 88 mmol). The mixture was heated to 55-65° C. until reaction completion. Distilled 2-propanol (−13%) to remove excess HCl. The reaction mixture was cooled to 5° C. and added 4-methylmorpholine (21 mL, 191 mmol) at a rate maintaining the temperature below 25° C. The mixture was stirred at room temperature for 30 min. (S)-3-((tert-butoxycarbonyl)(isopropyl)amino)-2-(4-chlorophenyl)propanoic acid (10.5 g, 30.8 mmol) and 2-propanol (24.5 mL) were added and the reaction mixture was cooled 0-5° C. Additional 2-propanol was added as required for rinse and to dilute reaction mixture to 10 vol total. Propanephosphonic anhydride (T3P) (50 wt % in EtOAc) (19.2 mL, 32.2 mmol) was added at a rate maintaining the temperature ≦10° C. The reaction mixture was warmed to room temperature. Upon reaction completion, water (10 mL, 1 vol) was added. CPME (100 mL) and then 1N aqueous NaOH (100 mL) were added. The mixture was stirred for 30 min and the layers were cut. The organic layer was consecutively washed with 1N aqueous NaOH (100 mL), 1N aqueous NH4OH (2×100 mL), and saturated aqueous NH4Cl (50 mL). The organic layer was washed with 14% aqueous NaCl (25 mL) and then concentrated to minimum stir volume at 65° C. under vacuum. CPME (100 mL) was added and the solution was distilled to minimum stir volume. CPME (100 mL) was added and the solution is distilled to minimum stir volume. CPME (100 mL) was added and the solution was heated to 50° C. Charcoal (7.35 g) was added. The mixture was stirred at 50° C. for 12 hours. The charcoal was filtered and the solution was distilled to minimum stir volume and CPME and heptane were added to obtain a final solution of 80 mL (8 vol) of a 35% CPME/heptane mixture. The mixture was heated to 70° C. to obtain a solution, and then cooled to 55° C. then seeded with 50 mg ((S)-2-(4-chlorophenyl)-3-(4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl)(isopropyl)carbamate. The mixture was held at 55° C. for 1 h and then cooled to room temperature. Heptane (29 mL) was added and the mixture was cooled to 0-5° C., filtered and washed with 15% CPME/Heptane (2×15 mL) and heptane (2×15 mL). The filter cake was dried at ≦55° C. to give tert-butyl ((S)-2-(4-chlorophenyl)-3-(4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl)(isopropyl)carbamate, isolated 14.1 g, 86% yield.

reactant | tert-butyl 4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate | 29.3 mmol, 9.8 g | O[C@@H]1C[C@H](C2=C1N=CN=C2N2CCN(CC2)C(=O)OC(C)(C)C)C | C17H26N4O3
reactant | HCl | 2.75 M | Cl | ClH
reactant | 4-methylmorpholine | 191 mmol, 21 mL | CN1CCOCC1 | C5H11NO
reactant | (S)-3-((tert-butoxycarbonyl)(isopropyl)amino)-2-(4-chlorophenyl)propanoic acid | 30.8 mmol, 10.5 g | C(C)(C)(C)OC(=O)N(C[C@@H](C(=O)O)C1=CC=C(C=C1)Cl)C(C)C | C17H24ClNO4
reactant | CPME | 100 mL | COC1CCCC1 | C6H12O
reactant | NaOH | 1N, 100 mL | [OH-].[Na+]
solvent | water | 10 mL | O | H2O
solvent | 2-propanol | CC(C)O | C3H8O
solvent | 2-propanol | 24.5 mL | CC(C)O | C3H8O
solvent | 2-propanol | 41.6 mL | CC(C)O | C3H8O
solvent | 2-propanol | 88 mmol, 32 mL | CC(C)O | C3H8O
product | CPME heptane | 35% | COC1CCCC1.CCCCCCC | InChI=1S/C7H16.C6H12O/c1-3-5-7-6-4-2;1-7-6-4-2-3-5-6/h3-7H2,1-2H3;6H,2-5H2,1H3
